US07786141B2
1.0 eq 4-piperidinemethanol (10.00 g, 86.8 mmol) was dissolved in dichloromethane (350 mL), cooled in an ice-H2O bath and treated dropwise with a solution of 1.05 eq ethyl chloroformate (9.89 g, 91.1 mmol) in dichloromethane (50 mL), followed by the dropwise addition of a solution of 1.0 eq triethylamine (8.78 g) in dichloromethane (50 mL). The reaction was stirred at ˜0° C. for 15 minutes, then at room temperature for 10 minutes. The reaction was diluted with dichloromethane (250 mL) and washed successively with (150 mL each) H2O, 0.1 N HCl (aq) (×2), saturated brine, then dried (Na2SO4) and filtered. The filtrate was concentrated in vacuo to afford 15.60 g ethyl 4-(hydroxymethyl)-piperidine-1-carboxylate as a viscous, pale bluish-green oil. 1H-NMR (400 MHz, CDCl3) δ 4.15 (br m, 2H), 4.09 (q, J=7.1 Hz, 2H), 3.46 (d, J=6.4 Hz, 2H), 2.72 (br t, J=12.4 Hz, 2H), 2.07 (s, 1H), 1.70 (m, 2H), 1.63 (m, 1H), 1.23 (t, J=7.2 Hz, 3H), 1.12 (m, 2H); tR=1.56 min [10-99% CH3CN gradient over 5 mins with 0.1% TFA (aq)]; Theoretical (M+H)+m/z for C9H17NO3=188.1; Found 188.0.

reactant | 4-piperidinemethanol | 86.8 mmol, 10.00 g, 1.0 eq | N1CCC(CC1)CO | C6H13NO
reactant | ethyl chloroformate | 91.1 mmol, 9.89 g, 1.05 eq | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 8.78 g, 1.0 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | ethyl 4-(hydroxymethyl)-piperidine-1-carboxylate | 15.60 g | OCC1CCN(CC1)C(=O)OCC | C9H17NO3
